US08242104B2
10-Chloro-N-((dimethylamino)methylene)-5,6-dihydroimidazo[1,2-d]pyrido[4,3-f][1,4]oxazepine-2-carboxamide
A mixture of 10-chloro-5,6-dihydroimidazo[1,2-d]pyrido[4,3-f][1,4]oxazepine-2-carboxamide (1.290 g, 4.875 mmol) and 1,1-Dimethoxy-N,N-dimethylmethanamine (3.238 mL, 24.37 mmol) in 70 ml of toluene was heated under reflux for 1 hour. After cooling the product precipitated from the reaction mixture, collected, washed with ethyl ether and dried on air. Weight 0.705 g (85%). MS (ESI+): 320.1

reactant | 10-chloro-5,6-dihydroimidazo[1,2-d]pyrido[4,3-f][1,4]oxazepine-2-carboxamide | 4.875 mmol, 1.290 g | ClC1=CC=2C=3N(CCOC2C=N1)C=C(N3)C(=O)N | C11H9ClN4O2
reactant | 1,1-Dimethoxy-N,N-dimethylmethanamine | 24.37 mmol, 3.238 mL | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 10-Chloro-N-((dimethylamino)methylene)-5,6-dihydroimidazo[1,2-d]pyrido[4,3-f][1,4]oxazepine-2-carboxamide | ClC1=CC=2C=3N(CCOC2C=N1)C=C(N3)C(=O)N=CN(C)C | C14H14ClN5O2
